data/oMe_Silver.jsonl
{"reaction_id": "NR-300_1-c1ccc(OC)cc1","level": "hard","name": "Seyfert-Gilbert Homologation","reactants_smiles": ["O=C([H])(c1ccc(OC)cc1)","COP(=O)(OC)C=[N+]=[N-]"],"products_smiles": ["c1ccc(OC)cc1C#C"],"conditions": "tert-Butoxide","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COP(=O)(OC)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "tert-Butoxide deprotonates the acidic methylene between phosphonate and diazo groups, stabilized by resonance with the phosphonate and diazo moieties."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C([H])(C(P(=O)(OC)OC)=[N+]=[N-])[O-]","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and lack of steric hindrance at c1ccc(OC)cc1."},{"step": 3,"type": "addition","subtype": "intramolecular_nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C1([H])C(P(O1)([O-])(OC)(OC))=[N+]=[N-]","step_weight": 0,"rationale": "The alkoxide oxygen attacks the phosphorus intramolecularly, favored by proximity and the electrophilicity of phosphorus enhanced by electron-withdrawing substituents."},{"step": 4,"type": "elimination","subtype": "cycloreversion","intermediate_smiles": "c1ccc(OC)cc1C([H])=C=[N+]=[N-]","step_weight": 0,"rationale": "Cycloreversion occurs as the strained cyclic intermediate breaks, releasing the diazo functionality and forming a cumulene, driven by relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C([H])=[C]","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the stability of N2, generating a reactive carbene or vinylidene intermediate."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccc(OC)cc1C#C","step_weight": 0,"rationale": "A 1,2-shift rearranges the vinylidene to the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under strong basic conditions, the Seyferth–Gilbert homologation converts aldehydes into terminal alkynes via deprotonation of the diazomethylphosphonate, nucleophilic addition to the carbonyl, cycloaddition, and stepwise elimination to form the alkyne through a rearrangement."}
